US04831151
3.8 g (21.3 mmol) of 1,3-diamino-4-(hydroxymethyl)-2-methylimidazolium chloride are taken up in 200 ml of dichloromethane and treated with 2.56 g (21.3 mmol) of thionyl chloride. The mixture is stirred at room temperature for 3 days, the product is filtered off, washed with dichloromethane and dried at 40° in a high vacuum. There is obtained 1,3-diamino-4-(chloromethyl)-2-methylimidazolium chloride of melting point 163°-165°.

reactant | 1,3-diamino-4-(hydroxymethyl)-2-methylimidazolium chloride | 21.3 mmol, 3.8 g | [Cl-].N[N+]1=C(N(C(=C1)CO)N)C
reactant | thionyl chloride | 21.3 mmol, 2.56 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1,3-diamino-4-(chloromethyl)-2-methylimidazolium chloride | [Cl-].N[N+]1=C(N(C(=C1)CCl)N)C | InChI=1S/C5H10ClN4.ClH/c1-4-9(7)3-5(2-6)10(4)8;/h3H,2,7-8H2,1H3;1H/q+1;/p-1
